US04556672
To a stirred slurry of 43.3 g of 4-chloroisatin in 350 ml of ethanol was added 17.3 ml of hydrazine hydrate, and then the reaction mixture was heated under reflux for 2 hours. The reaction mixture was cooled, and the precipitate was recovered by filtration to give 43.5 g of 4-chloro-3-hydrazono-2-oxindole, m.p. 235°-236° C.

reactant | 4-chloroisatin | 43.3 g | ClC1=C2C(C(NC2=CC=C1)=O)=O | C8H4ClNO2
reactant | hydrazine hydrate | 17.3 ml | O.NN
solvent | ethanol | 350 ml | C(C)O | C2H6O
product | 4-chloro-3-hydrazono-2-oxindole | 43.5 g | ClC1=C2C(C(NC2=CC=C1)=O)=NN | C8H6ClN3O
